US04083979
4-(3-Acetylsulfamoyl-4-chloro-phenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrobromide
10.5 g of 3'-acetylsulfamoyl-2-bromo-4'-chloro-acetophenone are dissolved in 100 ml of ethanol and heated to 45°-50° C during 5 minutes after the addition of 3 g of 1,3-dimethyl thiourea. After standing overnight at 20° C the solvent is expelled under reduced pressure, the residue is dissolved in acetone and the product is precipitated with diisopropyl ether while stirring.

reactant | 3'-acetylsulfamoyl-2-bromo-4'-chloro-acetophenone | 10.5 g | C(C)(=O)NS(=O)(=O)C=1C=C(C=CC1Cl)C(CBr)=O | C10H9BrClNO4S
reactant | 1,3-dimethyl thiourea | 3 g | CNC(=S)NC | C3H8N2S
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | acetone | CC(=O)C | C3H6O
product | 4-(3-Acetylsulfamoyl-4-chloro-phenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrobromide | Br.C(C)(=O)NS(=O)(=O)C=1C=C(C=CC1Cl)C1(N(C(SC1)=NC)C)O | InChI=1S/C13H16ClN3O4S2.BrH/c1-8(18)16-23(20,21)11-6-9(4-5-10(11)14)13(19)7-22-12(15-2)17(13)3;/h4-6,19H,7H2,1-3H3,(H,16,18);1H
